US07994185B2
N-(3-{2-(1,1-dimethylethyl)-5-[2-(3-hydroxypropyl)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide
To a stirring solution of 2-propen-1-ol (0.038 ml, 0.557 mmol) in tetrahydrofuran (1 ml) at 0° C. was added 9-BBN (3.34 ml, 1.670 mmol). The reaction mixture taken out of the ice bath and stirred for 2 h and added a solution of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.278 mmol), K2CO3 (0.742 ml, 2.226 mmol), and bis(tri-t-butylphosphine)palladium (0) (0.014 g, 0.028 mmol) in N,N-dimethylformamide (1 ml) and stirred for 30 minutes. The reaction mixture was heated to 50° C. After 4 h, the reaction was diluted with EtOAc and saturated NH4Cl. The mixture was extracted 2× with EtOAc, dried over MgSO4, filtered, and concentrated. The crude mixture was placed on silica gel and chromatography (0 to 80% DCM/MeOH, gradient) to obtain the title compound (157 mg, 42%. 1H NMR (400 MHz, DMSO-d6) ppm 10.88 (s, 1H), 8.47 (d, J=5.49 Hz, 1H), 7.67 (m, 1H), 7.43 (m, 2H), 7.31 (t, J=7.78 Hz, 1H), 7.23 (t, J=9.06 Hz, 2H), 6.62 (d, J=5.31 Hz, 1H), 4.51 (m, 1H), 3.46 (m, 2H), 2.86 (m, 2H), 1.87 (m, 2H), 1.41 (m, 9H); MS (ESI): 563 [M+H]+.

reactant | 2-propen-1-ol | 0.557 mmol, 0.038 ml | C(C=C)O | C3H6O
reactant | 9-BBN | 1.670 mmol, 3.34 ml | B1C2CCCC1CCC2 | C8H15B
reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.278 mmol, 0.15 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | K2CO3 | 2.226 mmol, 0.742 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4Cl | [NH4+].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.028 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3-{2-(1,1-dimethylethyl)-5-[2-(3-hydroxypropyl)-4-pyrimidinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)CCCO | C26H25F3N4O3S2
